US04605652
N-(1-Azabicyclo[2.2.2]oct-3-yl)-1H-indole-5-carboxamide
Tetrahydrofuran (50 ml) was added to a mixture of indole-5-carboxylic acid (2.42 g, 0.016 mole) and 1,1'-carbonyldiimidazole (2.43 g, 0.015 mole). The mixture was stirred for 1 hr while nitrogen was bubbled through the solution to remove the carbon dioxide that was evolved. Then 3-aminoquinuclidine (1.89 g, 0.015 mole) was added in one portion, and the mixture was stirred for 60 hr at room temperature. The solid product was collected by filtration to yield 3.75 g (86.8%). Recrystallization from methanol-isopropyl ether (with chilling) gave 1.89 g of the product as an off-white solid; m.p. 293°-295° C. The solid was vacuum dried at 82° C. for 16 hr, m.p. 293°-295° C.

reactant | indole-5-carboxylic acid | 0.016 mole, 2.42 g | N1C=CC2=CC(=CC=C12)C(=O)O | C9H7NO2
reactant | 1,1'-carbonyldiimidazole | 0.015 mole, 2.43 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-aminoquinuclidine | 0.015 mole, 1.89 g | NC1CN2CCC1CC2 | C7H14N2
solvent | Tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-(1-Azabicyclo[2.2.2]oct-3-yl)-1H-indole-5-carboxamide | 1.89 g | N12CC(C(CC1)CC2)NC(=O)C=2C=C1C=CNC1=CC2 | C16H19N3O
